US05366989
To 10 ml of dried tetrahydrofuran were added 0.36 g of N-(2-hydroxyethyl)-3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butanamide, 0.39 g of triphenylphosphine and 0.26 g of diethyl azodicarboxylate. The resulting mixture was subjected to reaction at 20°-25° C. for 12 hours. The reaction mixture was introduced into a mixed solvent consisting of 20 ml of ethyl acetate and 10 ml of water. The resulting solution was adjusted to pH 2.0 with 6N hydrochloric acid. The organic layer was separated, washed with a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. Thereafter, the solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by a column chromatography (eluant: toluene/ethyl acetate=10/1) to obtain 0.13 g of 1-aziridinylcarbonyl-2-(2,4-difluorophenyl)-1,1-difluoro-2-hydroxy-3-(1H-1,2,4-triazol-1-yl)propane.

reactant | N-(2-hydroxyethyl)-3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butanamide | 0.36 g | OCCNC(C(C(CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)(F)F)=O | C14H14F4N4O3
reactant | triphenylphosphine | 0.39 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.26 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-aziridinylcarbonyl-2-(2,4-difluorophenyl)-1,1-difluoro-2-hydroxy-3-(1H-1,2,4-triazol-1-yl)propane | 0.13 g | N1(CC1)C(=O)C(C(CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)(F)F | C14H12F4N4O2
